US08252859B2
2,2-Dimethyl-3-(N-cyclohexylmethylamino)propanal
Under the same conditions as for the preparation of 2,2-dimethyl-3-(N-morpholino)propanal, 36.8 g (0.44 mol) of 36% aqueous formaldehyde were reacted with 33.4 g (0.46 mol) of isobutyraldehyde and 50.0 g (0.44 mol) of N-cyclohexylmethylamine, and worked up. The product distilled at a top temperature of 69° C. and a pressure of 4·10−2 mbar. Yield: 65.8 g (76% of theory) as a colorless, clear liquid smelling of amine, which had an amine content of 4.94 mmol N/g.

reactant | formaldehyde | 0.44 mol, 36.8 g | C=O | CH2O
reactant | isobutyraldehyde | 0.46 mol, 33.4 g | C(C(C)C)=O | C4H8O
reactant | N-cyclohexylmethylamine | 0.44 mol, 50.0 g | C1(CCCCC1)CN | C7H15N
product | 2,2-Dimethyl-3-(N-cyclohexylmethylamino)propanal | CC(C=O)(CNCC1CCCCC1)C | C12H23NO
